US05420309
5-Nitro-2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole
A solution of 54.4 g of 2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole in 75 ml of methylene chloride was added dropwise at 10° C. to a mixture of 40 ml of 65% by weight nitric acid and 40 ml of concentrated sulphuric acid. The reaction mixture was subsequently stirred for 1 hour at room temperature and then poured into ice-water, the organic phase was separated off and the aqueous phase was extracted with methylene chloride. The combined organic phases were washed with water and dried and the readily volatile components were removed. The residue consisted of 95 g of product (=86% of theory) melting at 87° to 88° C. The NMR spectra showed the following characteristic absorptions: 19F NMR: -59.0 and -69.4 ppm. 1H NMR: 3.10 ppm.

reactant | 2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole | 54.4 g | FC(CC1(OC2=C(O1)C=CC=C2)C(F)(F)F)(F)F | C10H6F6O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 5-Nitro-2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole | [N+](=O)([O-])C1=CC2=C(OC(O2)(C(F)(F)F)CC(F)(F)F)C=C1 | C10H5F6NO4
